US08168412B2
To a flask containing 0.6 g of a substrate N-Boc-3-piperidinone, 0.82 g of D-glucose, 4 mg of NAD+, 1.62 g of L-alanine, and 4.0 mg of pyridoxal phosphate, a culture fluid of the recombinant E. coli HB101 (pNTPSPAG), obtained in Example 10, which expresses TPS, PALDH, and GDH was added so that total volume was 30 ml. The resultant product was stirred at 30° C. for 20 hours while being adjusted to a pH of 6.8 by drippage of 5 N aqueous solution of sodium hydroxide. The amount of N-Boc-aminopiperidine produced and the optical purity thereof were measured according to the method described in Example 19. In the result, the amount produced was 0.54 g. The absolute configuration of N-Boc-aminopiperidine was (S), and the optical purity was 99.4% e.e.

reactant | N-Boc-3-piperidinone | 0.6 g | C(=O)(OC(C)(C)C)N1CC(CCC1)=O | C10H17NO3
reactant | D-glucose | 0.82 g | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | NAD+ | 4 mg | C1=CC(=C[N+](=C1)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OC[C@@H]3[C@H]([C@H]([C@@H](O3)N4C=NC5=C4N=CN=C5N)O)O)O)O)C(=O)N
reactant | L-alanine | 1.62 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | pyridoxal phosphate | 4.0 mg | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | sodium hydroxide | [OH-].[Na+]
product | N-Boc-aminopiperidine | C(=O)(OC(C)(C)C)N1C(CCCC1)N | C10H20N2O2
